US07585878B2
N-(8-Chloro-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)-2,2,2-trifluoroacetamide was hydrolyzed with sodium hydroxide to obtain 6-amino-8-chloro-2H-1,4-benzoxazin-3(4H)-one.

reactant | N-(8-Chloro-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)-2,2,2-trifluoroacetamide | ClC1=CC(=CC=2NC(COC21)=O)NC(C(F)(F)F)=O | C10H6ClF3N2O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 6-amino-8-chloro-2H-1,4-benzoxazin-3(4H)-one | NC=1C=C(C2=C(NC(CO2)=O)C1)Cl | C8H7ClN2O2
